US05703050
c) Ethyl (3-(4-cyanobenzyl)-3-benzyloxyureido)acetate
2.73 g (11 mmol) of 4-(benzyloxyaminomethyl)benzonitrile are dissolved in 75 ml of DMF and added dropwise at 0° C. to a solution of 1.48 g of ethyl isocyanatoacetate in 75 ml of DMF. The mixture is heated at 50° C. for 3 d, then concentrated in vacuo. The residue is taken up in ethyl acetate and the solution is washed with water. The organic phase is dried (MgSO4) and concentrated in vacuo. The residue is dissolved in a little ethyl acetate and precipitated with ether/petroleum ether. The precipitate produced is reacted without further purification.

reactant | 4-(benzyloxyaminomethyl)benzonitrile | 11 mmol, 2.73 g | C(C1=CC=CC=C1)ONCC1=CC=C(C#N)C=C1 | C15H14N2O
reactant | ethyl isocyanatoacetate | 1.48 g | N(=C=O)CC(=O)OCC | C5H7NO3
solvent | DMF | 75 ml | CN(C)C=O | C3H7NO
solvent | DMF | 75 ml | CN(C)C=O | C3H7NO
product | Ethyl (3-(4-cyanobenzyl)-3-benzyloxyureido)acetate | C(#N)C1=CC=C(CN(C(NCC(=O)OCC)=O)OCC2=CC=CC=C2)C=C1 | C20H21N3O4
